US05306728
Production of (E,E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[4-(1-imidazolyl)-2-butenyloxy]benzylamine
50 mg of (E,E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-(4-chloro-2-butenyloxy)benzylamine was dissolved in 0.5 ml of dimethylformamide, and 30 mg of imidazole was added. The mixture was heated at 80° C. for 1 hour. The solvent was evaporated under reduced pressure, and ethyl acetate and water were added to the residue to extract it. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [ethyl acetate→ethyl acetate/methanol=10/1] to give 27 mg (yield 53 %) of the captioned compound as a pale yellow oil.

reactant | (E,E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-(4-chloro-2-butenyloxy)benzylamine | 50 mg | CN(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)OC\C=C\CCl | C21H28ClNO
reactant | imidazole | 30 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | (E,E)-N-methyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[4-(1-imidazolyl)-2-butenyloxy]benzylamine | 27 mg, yield 53 % | CN(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)OC\C=C\CN1C=NC=C1 | C24H31N3O
